US07816540B2
b) (4-Amino-3-fluoro-phenoxy)-acetic acid tert-butyl ester
A solution of (3-fluoro-4-nitro-phenoxy)-acetic acid tert-butyl ester (2.14 g, 8 mmol) in ethanol (3 ml) was hydrogenated 5 h at room temperature and atmospheric pressure over 10% palladium on charcoal. The catalyst was removed by filtration, the solvent evaporated under reduced pressure and the residue purified by column chromatography on silica gel (1:0 to 1:1 heptane/ethyl acetate eluant) to afford the product as a brown oil (960 mg, 50%).

reactant | (3-fluoro-4-nitro-phenoxy)-acetic acid tert-butyl ester | 8 mmol, 2.14 g | C(C)(C)(C)OC(COC1=CC(=C(C=C1)[N+](=O)[O-])F)=O | C12H14FNO5
solvent | ethanol | 3 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | (4-Amino-3-fluoro-phenoxy)-acetic acid tert-butyl ester | 960 mg, 50% | C(C)(C)(C)OC(COC1=CC(=C(C=C1)N)F)=O | C12H16FNO3
